US07687491B2
(4e) 1-[(5-{5-[4-Phenyl-5-(trifluoromethyl)-2-thienyl]-1,2,4-oxadiazol-3-yl}-2-thienyl)methyl]azetidine-3-carboxylic acid
The title compound (60 mg) was synthesized in a yield of 53% as a white crystalline solid by conducting the similar reaction to that mentioned in Example 3 (3e) using ethyl 1-[(5-{5-[4-phenyl-5-(trifluoromethyl)-2-thienyl]-1,2,4-oxadiazol-3-yl}-2-thienyl)methyl]azetidine-3-carboxylate (0.12 g, 0.23 mmol) that was obtained in Example 4 (4d) and a 1N aqueous solution of sodium hydroxide (0.69 ml, 0.69 mmol).

reactant | ethyl 1-[(5-{5-[4-phenyl-5-(trifluoromethyl)-2-thienyl]-1,2,4-oxadiazol-3-yl}-2-thienyl)methyl]azetidine-3-carboxylate | 0.23 mmol, 0.12 g | C1(=CC=CC=C1)C=1C=C(SC1C(F)(F)F)C1=NC(=NO1)C1=CC=C(S1)CN1CC(C1)C(=O)OCC | C24H20F3N3O3S2
reactant | sodium hydroxide | 0.69 mmol, 0.69 ml | [OH-].[Na+]
product | 1-[(5-{5-[4-Phenyl-5-(trifluoromethyl)-2-thienyl]-1,2,4-oxadiazol-3-yl}-2-thienyl)methyl]azetidine-3-carboxylic acid | 60 mg, yield of 53% | C1(=CC=CC=C1)C=1C=C(SC1C(F)(F)F)C1=NC(=NO1)C1=CC=C(S1)CN1CC(C1)C(=O)O | C22H16F3N3O3S2
